US07053212B2
Step B: 2,4-Dichloro-N-(2-chloro-4-hydroxy-benzyl)-N-[4-(2-pyrrolidin-1-yl-ethoxy)-phenyl]-benzenesulfonamide
To a solution of crude 2,4-dichloro-N-[2-chloro-4-(tetrahydro-pyran-2-yloxy)-benzyl]-N-[4-(2-pyrrolidin-1-yl-ethoxy)-phenyl]-benzenesulfonamide (0.096 g, 0.15 mmol) in 4 mL absolute ethanol was added 1 mL of 1.2N HCl. The reaction mixture was stirred at room temperature for 24 hr. and was diluted with 10 mL saturated aqueous sodium bicarbonate. The aqueous solution was washed with methylene chloride (2×10 mL). The combined organic layers were dried (sodium sulfate), filtered, and concentrated. The residue was purified by preparative TLC (1.0 mm silica gel layer, elution with 10% methanol/ethyl acetate) to afford 0.029 g of the title compound. MS 557.3 (M+1)+

reactant | 2,4-dichloro-N-[2-chloro-4-(tetrahydro-pyran-2-yloxy)-benzyl]-N-[4-(2-pyrrolidin-1-yl-ethoxy)-phenyl]-benzenesulfonamide | 0.15 mmol, 0.096 g | ClC1=C(C=CC(=C1)Cl)S(=O)(=O)N(C1=CC=C(C=C1)OCCN1CCCC1)CC1=C(C=C(C=C1)OC1OCCCC1)Cl | C30H33Cl3N2O5S
reactant | HCl | 1.2N, 1 mL | Cl | ClH
solvent | ethanol | 4 mL | C(C)O | C2H6O
solvent | sodium bicarbonate | 10 mL | C([O-])(O)=O.[Na+]
product | 2,4-Dichloro-N-(2-chloro-4-hydroxy-benzyl)-N-[4-(2-pyrrolidin-1-yl-ethoxy)-phenyl]-benzenesulfonamide | 0.029 g | ClC1=C(C=CC(=C1)Cl)S(=O)(=O)N(C1=CC=C(C=C1)OCCN1CCCC1)CC1=C(C=C(C=C1)O)Cl | C25H25Cl3N2O4S
